.SUBCKT P360_MUSTNET A B C D E F G H VDD VSS ZN
MM0 ZN A n8 VSS nmos_rvt w=46.0n l=16n nfin=2
MM1 n4 B n1 VSS nmos_rvt w=46.0n l=16n nfin=2
MM2 n8 C n7 VSS nmos_rvt w=46.0n l=16n nfin=2
MM3 n8 D n4 VSS nmos_rvt w=46.0n l=16n nfin=2
MM4 ZN E n1 VSS nmos_rvt w=46.0n l=16n nfin=2
MM5 n4 F VSS VSS nmos_rvt w=46.0n l=16n nfin=2
MM6 n7 G n1 VSS nmos_rvt w=46.0n l=16n nfin=2
MM7 n4 H n1 VSS nmos_rvt w=46.0n l=16n nfin=2
MM8 ZN F n7 VSS nmos_rvt w=46.0n l=16n nfin=2
MM9 n7 B VSS VSS nmos_rvt w=46.0n l=16n nfin=2
MM10 p7 A p3 VDD pmos_rvt w=46.0n l=16n nfin=2
MM11 ZN B p9 VDD pmos_rvt w=46.0n l=16n nfin=2
MM12 p7 C VDD VDD pmos_rvt w=46.0n l=16n nfin=2
MM13 p7 D p2 VDD pmos_rvt w=46.0n l=16n nfin=2
MM14 p5 E p2 VDD pmos_rvt w=46.0n l=16n nfin=2
MM15 ZN F p5 VDD pmos_rvt w=46.0n l=16n nfin=2
MM16 p10 G p9 VDD pmos_rvt w=46.0n l=16n nfin=2
MM17 p9 H p3 VDD pmos_rvt w=46.0n l=16n nfin=2
MM18 p7 G p5 VDD pmos_rvt w=46.0n l=16n nfin=2
MM19 p3 D VDD VDD pmos_rvt w=46.0n l=16n nfin=2
MM20 p10 E p3 VDD pmos_rvt w=46.0n l=16n nfin=2
.ENDS