.SUBCKT P360 A B C D Ab Bb Cb Db OUT VDD VSS
MM0 n2 D VSS VSS nmos_rvt w=81n l=20n nfin=3
MM1 n2 Cb VSS VSS nmos_rvt w=81n l=20n nfin=3
MM2 n3 A VSS VSS nmos_rvt w=81n l=20n nfin=3
MM3 n4 Ab VSS VSS nmos_rvt w=81n l=20n nfin=3
MM4 n4 Db n1 VSS nmos_rvt w=81n l=20n nfin=3
MM5 OUT Cb n1 VSS nmos_rvt w=81n l=20n nfin=3
MM6 n3 B n2 VSS nmos_rvt w=81n l=20n nfin=3
MM7 n4 Bb n2 VSS nmos_rvt w=81n l=20n nfin=3
MM8 OUT C n2 VSS nmos_rvt w=81n l=20n nfin=3
MM9 OUT D n3 VSS nmos_rvt w=81n l=20n nfin=3
MM10 p1 C VDD VDD pmos_rvt w=81n l=20n nfin=3
MM11 p2 A VDD VDD pmos_rvt w=81n l=20n nfin=3
MM12 p4 Cb VDD VDD pmos_rvt w=81n l=20n nfin=3
MM13 p2 Bb p1 VDD pmos_rvt w=81n l=20n nfin=3
MM14 p3 Cb p1 VDD pmos_rvt w=81n l=20n nfin=3
MM15 p3 Ab p2 VDD pmos_rvt w=81n l=20n nfin=3
MM16 p4 B p2 VDD pmos_rvt w=81n l=20n nfin=3
MM17 OUT D p3 VDD pmos_rvt w=81n l=20n nfin=3
MM18 p5 C p4 VDD pmos_rvt w=81n l=20n nfin=3
MM19 OUT Db p5 VDD pmos_rvt w=81n l=20n nfin=3
.ENDS P360